US07943774B2
1-{4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}pentan-1-one (I-58)
Pentanoyl chloride (133 mg) is added to a solution of 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 309 mg) and triethylamine (0.7 ml) in dichloromethane (3 ml). The mixture is stirred overnight, and water is then added. The aqueous phase is separated off and extracted with ethyl acetate, and the combined organic phases are then dried with sodium sulphate and concentrated. The residue is purified. This gives 1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}pentan-1-one (179 mg).

reactant | Pentanoyl chloride | 133 mg | C(CCCC)(=O)Cl | C5H9ClO
reactant | 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 309 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-{4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}pentan-1-one | C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCN(CC1)C(CCCC)=O | C21H28N2OS
